US06696464B2
To a stirred, cold (0° C.), dark brown solution of 0.48 g of 6-bromo-3-isopropyl-[1,2,4]triazolo[4,3-a]pyridine in 5 mL of tetrahydrofuran was added slowly 1.3 mL of 2 M isopropylmagnesium chloride in tetrahydrofuran. After 30 minutes N,N-dimethylformamide was added; the ice bath was removed, and the mixture was heated to 50° C. for 150 minutes. The mixture was cooled to 22° C., diluted with 1 M hydrochloric acid, and stirred for 10 minutes. The mixture was made basic with saturated aqueous sodium carbonate, and extracted with ethyl acetate (3×). The combined extracts were washed with brine (2×), dried (sodium sulfate), filtered, and the filtrate was concentrated to give a light yellow solid which was crystallized (ethyl acetate, hexanes, and methanol) to give 0.19 g of 3-isopropyl-[1,2,4]triazolo[4,3-a]pyridine-6-carbaldehyde as a faint yellow solid.

reactant | 6-bromo-3-isopropyl-[1,2,4]triazolo[4,3-a]pyridine | 0.48 g | BrC=1C=CC=2N(C1)C(=NN2)C(C)C | C9H10BrN3
reactant | isopropylmagnesium chloride | 2 M, 1.3 mL | C(C)(C)[Mg]Cl
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 3-isopropyl-[1,2,4]triazolo[4,3-a]pyridine-6-carbaldehyde | 0.19 g | C(C)(C)C1=NN=C2N1C=C(C=C2)C=O | C10H11N3O
